US08703742B2
6-Fluoro-2,3-dimethoxy-benzaldehyde
To a solution of 4-fluoro-1,2-dimethoxy-benzene (20.0 g, 128.07 mmol) in anhydrous THF (200 mL) under nitrogen at −78° C. was added dropwise a 2.5M solution in hexane of n-BuLi (102.4 mL, 256.14 mmol) for duration 30 min and the reaction mixture was further stirred at the same temperature for 3 h. The reaction mixture was quenched carefully with DMF (100 mL) at −65° C. to −40° C. and left overnight. 2N HCl (300 mL) was added dropwise at −60° C. and the mixture stirred for 30 min. The two layers were separated and the aqueous layer extracted with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. Purification was completed by flash column chromatography (20% EtOAc/hexane). Yield 18.0 g (85%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.39 (s, 1H), 7.09 (dd, J=9.4, 5.1 Hz, 1H), 6.84 (t, J=9.6 Hz, 1H), 3.98 (s, 3H), 3.88 (s, 3H). 19F NMR (376 MHz, CHLOROFORM-d): −126 ppm.

reactant | 4-fluoro-1,2-dimethoxy-benzene | 128.07 mmol, 20.0 g | FC1=CC(=C(C=C1)OC)OC | C8H9FO2
reactant | n-BuLi | 256.14 mmol, 102.4 mL | [Li]CCCC
reactant | THF | 200 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 6-Fluoro-2,3-dimethoxy-benzaldehyde | FC1=CC=C(C(=C1C=O)OC)OC | C9H9FO3
